US06348474B1
5-(Methoxycarbonyl)benzo[b]furan
Methyl 4-((2,2-dimethoxy)ethoxy)benzoate (10.00 g) and polyphosphoric acid (20.00 g) were refluxed in 1,2-dichloroethane (50 ml) for 1 hr. After cooling, ice was added, and the separated organic layer was washed with 10% hydrochloric acid. The mixture was dried over magnesium sulfate, concentrated and purified by column chromatography to give the objective compound (0.86 g).

reactant | Methyl 4-((2,2-dimethoxy)ethoxy)benzoate | 10.00 g | COC(COC1=CC=C(C(=O)OC)C=C1)OC | C12H16O5
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 5-(Methoxycarbonyl)benzo[b]furan | 0.86 g | COC(=O)C1=CC2=C(OC=C2)C=C1 | C10H8O3
